US09216999B2
4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide
4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide (456 mg, 1.40 mmol) was stirred with 1-benzyl-4-aminopiperidine (900 mg, 4.73 mmol) and N,N-diisopropylethylamine (250 μL, 1.44 mmol) at 140° C. for 3 hours. The reaction mixture was allowed to cool to room temperature and, after addition of water, extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform→ethyl acetate/methanol=1/0→5/1 (v/v)) to give the title compound as a colorless solid (542 mg, yield 81%).

reactant | 4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | 1.40 mmol, 456 mg | ClC1=C2C(=NC=C1C(=O)N)N(C=C2)COCC[Si](C)(C)C | C14H20ClN3O2Si
reactant | 1-benzyl-4-aminopiperidine | 4.73 mmol, 900 mg | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | N,N-diisopropylethylamine | 1.44 mmol, 250 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
product | 4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | 542 mg, yield 81% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1C(=O)N)N(C=C2)COCC[Si](C)(C)C | C26H37N5O2Si
